US07405232B2
N-{5-[2-[1,1-dimethyl-3-[1,2,4]triazol-1-yl-propylamino)-1-hydroxy-ethyl]-2-hydroxy-phenyl}-methanesulphonamide
The target compound is prepared analogously to the methods described for Example 7 from 379 mg (1 mmol) N-[2-benzyloxy-5-[2-ethoxy-2-hydroxy-acetyl)-phenyl]-methanesulphonamide and 154 mg (1 mmol) 1,1-dimethyl-3-[1,2,4]triazol-1-yl-propylamine. Colourless solid.

reactant | N-[2-benzyloxy-5-[2-ethoxy-2-hydroxy-acetyl)-phenyl]-methanesulphonamide | 1 mmol, 379 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(C(O)OCC)=O)NS(=O)(=O)C | C18H21NO6S
reactant | 1,1-dimethyl-3-[1,2,4]triazol-1-yl-propylamine | 1 mmol, 154 mg | CC(CCN1N=CN=C1)(C)N | C7H14N4
product | N-{5-[2-[1,1-dimethyl-3-[1,2,4]triazol-1-yl-propylamino)-1-hydroxy-ethyl]-2-hydroxy-phenyl}-methanesulphonamide | CC(CCN1N=CN=C1)(C)NCC(O)C=1C=CC(=C(C1)NS(=O)(=O)C)O | C16H25N5O4S
